US07361783B2
4-(3,4-Difluorophenoxy)benzyl alcohol
To a solution of 4-fluorobenzaldehyde (2.50 g, 20.1 mmol) in N,N-dimethylformamide (13 mL) were added potassium carbonate (3.33 g, 24.1 mmol) and 3,4-difluorophenol (2.61 g, 20.1 mmol) in turn, and the mixture was stirred for 2.5 hours at 135° C. Water was added to the reaction mixture, which was extracted with ethyl acetate. Then the ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. To the residue were added ethanol (50 mL) and sodium borohydride (760 mg, 20.1 mmol) in turn, and the mixture was stirred for 4 hours at room temperature. Water was added to the reaction mixture, which was brought to pH 4 with 3 mol/L hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous solution of sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1→3:1) to afford 4.40 g of pale yellow liquid title compound. Yield 93%.

reactant | 4-fluorobenzaldehyde | 20.1 mmol, 2.50 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 24.1 mmol, 3.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-difluorophenol | 20.1 mmol, 2.61 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | sodium borohydride | 20.1 mmol, 760 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 3 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(3,4-Difluorophenoxy)benzyl alcohol | 4.40 g, Yield 93% | FC=1C=C(OC2=CC=C(CO)C=C2)C=CC1F | C13H10F2O2
